US06531502B1
A mixture of 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (5.4 g), 3.7 g of 6-chloro-2-oxindole and 2.7 g of piperidine in 25 mL of ethanol was refluxed for 4 hours. Upon slow addition of acetic acid (8 mL), a precipitate formed. The mixture was refluxed for 5 minutes and cooled to ambient temperature. The precipitate was collected by vacuum filtration and washed with 20 mL of ethanol. The solids were slurry-washed in 30 mL of refluxing ethanol, cooled, collected by vacuum filtration, washed with 30 mL of ethanol and vacuum dried to give 6.5 g (80%) of 3-[2-(6-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid as an orange solid.

reactant | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 5.4 g | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
reactant | 6-chloro-2-oxindole | 3.7 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | piperidine | 2.7 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-[2-(6-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid | 6.5 g, 80% | ClC1=CC=C2C(C(NC2=C1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C20H19ClN2O3
